US07176322B2
5-Ethyl-8-hydroxymethyl-1,2,5,6-tetrahydropyrido[3,4-b]indole
Ethyl 1,2,5,6-tetrahydropyrido[3,4-b]indole-8-carboxylate (0.56 g, 2.16 mmol) was dissolved in dry THF (30 mL) and lithium aluminum hydride (1M in THF, 10.82 mL, 10.82 mmol) was added via syringe. The mixture was heated to reflux for one hour then cooled and NaOH (5% aqueous solution, 2.67 mL) was added. The mixture was filtered through diatomaceous earth and the solvent was removed to afford 0.5 g of title compound.

reactant | Ethyl 1,2,5,6-tetrahydropyrido[3,4-b]indole-8-carboxylate | 2.16 mmol, 0.56 g | C1NC=CC2=C1NC=1C(=CCCC21)C(=O)OCC | C14H16N2O2
reactant | lithium aluminum hydride | 10.82 mmol, 1M, 10.82 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2.67 mL | [OH-].[Na+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Ethyl-8-hydroxymethyl-1,2,5,6-tetrahydropyrido[3,4-b]indole | 0.5 g | C(C)C1C=2C3=C(NC2C(=CC1)CO)CNC=C3 | C14H18N2O
